US06355683B1
m-Cyanobenzyl bromide (2.35 g, 12.0 mmol) was slowly added to a solution of glycine methyl ester hydrochloride (0.63 g, 5.0 mmol), NaHCO3 (1.4 g, 17.0 mmol) and NaI (0.37 g, 2.4 mmol) in DMSO (5 mL) and THF (20 mL). The reaction was heated to reflux for 2 hours, cooled to room temperature and diluted with EtOAc (50 ml) and water (40 mL). The organic phase was washed with water (3×40 mL), saturated aqueous NaCl (40 mL), dried (Na2SO4), filtered and concentrated in vacuo to give N,N-Bis(m-cyanobenzyl)glycine methyl ester as a colorless oil of sufficient purity for subsequent reactions. Additional purification can be achieved by extraction into dilute aqueous acid, basification and extraction in an organic solvent. 1H NMR (200 MHz, CDCl3): δ3.39, s, 2H; 3.71, s, 3H; 3.86, s, 4H; 7.39-7.73, m, 10H.

reactant | m-Cyanobenzyl bromide | 12.0 mmol, 2.35 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | glycine methyl ester hydrochloride | 5.0 mmol, 0.63 g | Cl.COC(CN)=O
reactant | NaHCO3 | 17.0 mmol, 1.4 g | C(=O)(O)[O-].[Na+]
reactant | NaI | 2.4 mmol, 0.37 g | [Na+].[I-]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | water | 40 mL | O | H2O
product | N,N-Bis(m-cyanobenzyl)glycine methyl ester | COC(CN(CC1=CC(=CC=C1)C#N)CC1=CC(=CC=C1)C#N)=O | C19H17N3O2
